US07060697B2
To a solution of 3-[4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzylamino]-propionic acid tert-butyl ester (24 mg, 0.0478 mmol, 1 eq.) in DCM (2 mL) is added triethylsilane (0.038 mL, 0.2392 mmol, 5 eq.) followed by TFA (2 mL). The mixture is stirred at room temperature for 2 h. After concentration, the crude product is purified by preparative RP LC-MS to give 3-[4-(2-Trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzylamino]-propionic acid: 1H NMR (CD3OD, 400 MHz) δ7.66 (s, 1H), 7.60 (d, 1H), 7.55–7.38 (m, 7H), 7.28–7.21 (m, 3H), 4.33 (s, 2H), 4.18 (s, 2H), 3.26 (t, 2H), 2.72 (t, 2H); MS (ES+): (446.1, M+1)+.

reactant | 3-[4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzylamino]-propionic acid tert-butyl ester | 0.0478 mmol, 24 mg, 1 eq. | C(C)(C)(C)OC(CCNCC1=CC=C(C=C1)CSC1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)=O | C28H30F3NO2S
reactant | triethylsilane | 0.2392 mmol, 0.038 mL, 5 eq. | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(2-Trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzylamino]-propionic acid | FC(C1=C(C=CC(=C1)SCC1=CC=C(CNCCC(=O)O)C=C1)C1=CC=CC=C1)(F)F | C24H22F3NO2S
